US05521103
Preparation of 9-phenoxycarbonyl-10-carboxymethylacridinium bromide
A mixture of phenyl acridine-9-carboxylate (100 mg) and t-butyl iodoacetate is stirred and heated at 110° C. for five hours. The resulting solution is poured into diethyl ether (25 ml) and the resulting precipitate isolated by filtration. Part of this precipitate (10 mg) is stirred with 33% hydrobromic acid in acetic acid (1 ml), and heated at 50° C. for two hours. The reaction mixture is poured into water, and the resulting precipitate (ca. 6 mg) isolated. MS: 358, 314, 300, 237, 220, 206.

reactant | phenyl acridine-9-carboxylate | 100 mg | C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)OC1=CC=CC=C1 | C20H13NO2
reactant | t-butyl iodoacetate | ICC(=O)OC(C)(C)C | C6H11IO2
reactant | diethyl ether | 25 ml | C(C)OCC | C4H10O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 9-phenoxycarbonyl-10-carboxymethylacridinium bromide | ca. 6 mg | [Br-].O(C1=CC=CC=C1)C(=O)C=1C2=CC=CC=C2[N+](=C2C=CC=CC12)CC(=O)O | InChI=1S/C22H15NO4.BrH/c24-20(25)14-23-18-12-6-4-10-16(18)21(17-11-5-7-13-19(17)23)22(26)27-15-8-2-1-3-9-15;/h1-13H,14H2;1H
